US04154740
Preparation of 1-methoxy-3-(4,5,6,7-tetrahydrobenzo-[b]thien-7-yl)urea
A mixture of methoxyamine hydrochloride (5 g.) in 60 ml. of methylene chloride is stirred and 6 g. of triethylamine in 15 ml. of methylene chloride is added slowly. After half an hour of stirring, 5.4 g. of 4,5,6,7-tetrahydrobenzo[b]thien-7-yl isocyanate is added dropwise. The mixture is stirred at room temperature for an hour and filtered. The filter cake is washed with water and dried to afford the title compound.

reactant | methoxyamine hydrochloride | 5 g | Cl.CON
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 4,5,6,7-tetrahydrobenzo[b]thien-7-yl isocyanate | S1C2=C(C=C1)CCCC2N=C=O | C9H9NOS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methoxy-3-(4,5,6,7-tetrahydrobenzo-[b]thien-7-yl)urea | CONC(=O)NC1CCCC2=C1SC=C2 | C10H14N2O2S
